US08629271B2
a) (9-(3-(2-Hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isobutylthiazol-4-yl)methanone
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.34 g) was added to a solution of 2-(3-(1-oxa-4,9-diazaspiro[5.5]undecan-9-ylmethyl)phenyl)ethanol (example 82, step a) (0.2 g), 2-isobutylthiazole-4-carboxylic acid (0.13 g) and triethylamine (0.38 mL) in DMF (7 mL) at 0° C. The resulting yellow solution was allowed to warm to RT and was stirred for 2 h. The mixture was partitioned between ethyl acetate (100 mL) and brine (100 mL), the organic phase was washed with brine (2×100 mL), dried over sodium sulphate, filtered and the solvent evaporated. The resulting gum was purified by silica gel chromatography eluting with 47.5:47.5:5 isohexane:ethyl acetate:triethylamine to 95:5 ethyl acetate:triethylamine gradient. The fractions containing product were combined, toluene (200 mL) was added, and the solvent evaporated under reduced pressure to give the subtitled compound as a clear gum. Yield 0.2 g.

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.34 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-(3-(1-oxa-4,9-diazaspiro[5.5]undecan-9-ylmethyl)phenyl)ethanol | O1CCNCC12CCN(CC2)CC=2C=C(C=CC2)CCO | C17H26N2O2
reactant | 2-isobutylthiazole-4-carboxylic acid | 0.13 g | C(C(C)C)C=1SC=C(N1)C(=O)O | C8H11NO2S
reactant | triethylamine | 0.38 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | (9-(3-(2-Hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isobutylthiazol-4-yl)methanone | OCCC=1C=C(CN2CCC3(CN(CCO3)C(=O)C=3N=C(SC3)CC(C)C)CC2)C=CC1 | C25H35N3O3S
